US04820834
1-Pivaloyloxymethyloxycarbonylmethyl-1,3-dihydro-3-(2-indolecarbonylamino)-5-phenyl-2H-1,4-benzodiazepin-2-one
A mixture of 1-carboxymethyl-1,3-dihydro-3-(2-indolecarbonylamino)-5-phenyl-2H-1,4-benzodiazepin-2-one (85 mg, 0.20 mmol), pivaloyloxymethylchloride (32 μl, 0.22 mmol) and triethylamine (28 μl, 0.20 mmol) was combined in 2 ml of dry dimethylformamide and allowed to stand at room temperature for 48 hours. Solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and water. Extractive work-up gave 100 mg of crude Product which was chromatographed on silica gel (CH3OH-CHCl3, 3:97 v/v elution) to give a white solid after trituration with ether: m.p. 225°-226° C.

reactant | 1-carboxymethyl-1,3-dihydro-3-(2-indolecarbonylamino)-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.20 mmol, 85 mg | C(=O)(O)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C26H20N4O4
reactant | pivaloyloxymethylchloride | 0.22 mmol, 32 μl | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | triethylamine | 0.20 mmol, 28 μl | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-Pivaloyloxymethyloxycarbonylmethyl-1,3-dihydro-3-(2-indolecarbonylamino)-5-phenyl-2H-1,4-benzodiazepin-2-one | C(C(C)(C)C)(=O)OCOC(=O)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C32H30N4O6
